US05440044
A solution of 5.88 g of 4-phosphonocrotonic acid triethyl ester in 60 ml of tetrahydrofuran is mixed in portions with 2.5 g of potassium-tert-butanolate with stirring and under argon atmosphere at -20° C. After 30 minutes, a solution of 2.6 g of 6-bromopyridine-2-aldehyde is instilled at -20° C. and the mixture is stirred at this temperature for another hour. The reaction mixture is poured on ice, shaken out with diethyl ether, the organic phase is washed with saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/ethyl acetate=95/5. 2.66 g of 5-(6-bromo-2-pyridyl)-(E,E)-2,4-pentadienoic acid ethyl ester is obtained as crude product.

reactant | 4-phosphonocrotonic acid triethyl ester | 5.88 g | CCOC(=O)/C(=C\C)/P(=O)(OCC)OCC | C10H19O5P
reactant | potassium tert-butanolate | 2.5 g | [K].C(C)(C)(C)[O-]
reactant | 6-bromopyridine-2-aldehyde | 2.6 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 5-(6-bromo-2-pyridyl)-(E,E)-2,4-pentadienoic acid ethyl ester | 2.66 g | C(C)OC(\C=C\C=C\C1=NC(=CC=C1)Br)=O | C12H12BrNO2
